US07432392B2
4-Dimethylaminopyridine (53 mg), 2-hydroxymethyl-2-phenylmalonic acid diethyl ester (116 mg) and {3-dimethylcarbamoyl-4-[(4′-trifluoromethylbiphenyl-2-carbonyl)amino]phenoxy}acetic acid (176 mg) were dissolved in acetone (5 mL), and to the solution was added WSC (104 mg). The mixture was stirred at room temperature for 3 hours and then concentrated. The residue was purified by column chromatography on silica gel (ethyl acetate:hexane=1:1) to give 2-(2-{3-dimethylcarbamoyl-4-[(4′-trifluoromethylbiphenyl-2-carbonyl)amino]phenoxy}acetoxymethyl)-2-phenylmalonic acid diethyl ester (133 mg) as a colorless solid (m.p. 132-138° C.).

reactant | 2-hydroxymethyl-2-phenylmalonic acid diethyl ester | 116 mg | C(C)OC(C(C(=O)OCC)(C1=CC=CC=C1)CO)=O | C14H18O5
reactant | {3-dimethylcarbamoyl-4-[(4′-trifluoromethylbiphenyl-2-carbonyl)amino]phenoxy}acetic acid | 176 mg | CN(C(=O)C=1C=C(OCC(=O)O)C=CC1NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F)C | C25H21F3N2O5
reactant | WSC | 104 mg | CCN=C=NCCCN(C)C | C8H17N3
catalyst | 4-Dimethylaminopyridine | 53 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | acetone | 5 mL | CC(=O)C | C3H6O
product | 2-(2-{3-dimethylcarbamoyl-4-[(4′-trifluoromethylbiphenyl-2-carbonyl)amino]phenoxy}acetoxymethyl)-2-phenylmalonic acid diethyl ester | 133 mg | C(C)OC(C(C(=O)OCC)(C1=CC=CC=C1)COC(COC1=CC(=C(C=C1)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F)C(N(C)C)=O)=O)=O | C39H37F3N2O9
